US04110447
37.3 g of 1-phthalimido-3-(4'-fluoro-4-biphenylyl)- butane are boiled for 6 hours with 400 ml of 20% aqueous hydrochloric acid, evaporated and worked up using sodium hydroxide solution and ether to give 3-(4'-fluoro-4-biphenylyl)-butylamine, hydrochloride, m.p. 222°- 224°.

reactant | 1-phthalimido-3-(4'-fluoro-4-biphenylyl)- butane | 37.3 g | C1(C=2C(C(N1CCC(C)C1=CC=C(C=C1)C1=CC=C(C=C1)F)=O)=CC=CC2)=O | C24H20FNO2
reactant | hydrochloric acid | 400 ml | Cl | ClH
product | 3-(4'-fluoro-4-biphenylyl)-butylamine, hydrochloride | Cl.FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCN)C | InChI=1S/C16H18FN.ClH/c1-12(10-11-18)13-2-4-14(5-3-13)15-6-8-16(17)9-7-15;/h2-9,12H,10-11,18H2,1H3;1H
